US07566735B2
N-cyclopentyl-2-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetamide
The title compound was prepared from {4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetic acid and cyclopentylamine using a similar procedure to that described for Example 2, except product was purified by mass directed auto-prep.

reactant | {4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetic acid | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)CC(=O)O)(F)F | C16H15F3N2O2
reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
product | N-cyclopentyl-2-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetamide | C1(CCCC1)NC(CC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F)=O | C21H24F3N3O
